US05854234
4-Methyl-2-(propylimino)piperidine hydrochloride
The method of preparation of 2-(ethylimino)-4-methylpiperidine acetate was used to convert 4-methyl-2-(propylamino)pyridine hydrochloride to the title compound The product was obtained as a clear colorless oil which crystallized under EtOAc. The analysis of the product was found to be consistent with the proposed structure. MH+=155; 1H NMR (D2O): 3.45-3.20 (m, 2H); 3.05 (t, J=6 Hz, 2H); 2.60-2.45 (m, 1H); 2.20-2.00 (m, 1.95-1.70 (m, 2H); 1.60-1.40 (m, 2H); 1.40-1.25 (m, 1H); 0.90 (d, J=6 Hz, 3H); 0.80 (t, J=6 Hz, 3H).

reactant | 2-(ethylimino)-4-methylpiperidine acetate | C(C)(=O)O.C(C)N=C1NCCC(C1)C
reactant | 4-methyl-2-(propylamino)pyridine hydrochloride | Cl.CC1=CC(=NC=C1)NCCC
product | 4-Methyl-2-(propylimino)piperidine hydrochloride | Cl.CC1CC(NCC1)=NCCC | InChI=1S/C9H18N2.ClH/c1-3-5-10-9-7-8(2)4-6-11-9;/h8H,3-7H2,1-2H3,(H,10,11);1H
